US06573391B1
Hex-5-enyl 2-bromoacetate:
6.2 g (30 mmol) of DCC are added to a solution, cooled to 0° C., of 4.1 g (30 mmol) of bromoacetic acid, 250 mg (3 mmol) of DMAP and 3.3 g (33 mmol) of 5-hexen-1-ol in 30 ml of CH2Cl2. When the addition is complete, the mixture is left to reach room temperature and stirred overnight. If the reaction is complete, the precipitated urea derivative is filtered off, the filtrate is concentrated by evaporation and the residue is taken up in n-pentane. The mixture is then filtered again and the filtrate is then washed twice with 0.5N HCl and once with saturated NaHCO3 solution. The resulting crude product is used in the next reaction without further purification.

reactant | DCC | 30 mmol, 6.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | bromoacetic acid | 30 mmol, 4.1 g | BrCC(=O)O | C2H3BrO2
reactant | 5-hexen-1-ol | 33 mmol, 3.3 g | C(CCCC=C)O | C6H12O
catalyst | DMAP | 3 mmol, 250 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | Hex-5-enyl 2-bromoacetate | BrCC(=O)OCCCCC=C | C8H13BrO2
